US04729986
Preparation of bis(4-Fluorophenyl)methyl(5-formyl-1H-1,2,4-triazol-1-ylmethyl)silane
Bis(4-fluorophenyl)methyl(1H-1,2,4-triazol-1-ylmethyl)silane (1.3 g, 0.004 mol) was lithiated as described in Example 1 using 3.7 mL (0.0044 mol) of 1.2M n-butyllithium in 10 mL of THF. DMF (1.2 mL, 0.016 mol) was added and the solution was allowed to warm to 0° C. After 1 hour, the reaction mixture was diluted with 1:1 ether/hexanes, washed with 7% aqueous NaHCO3 and brine, dried over Na2SO4 and evaporated. Flash chromatography using 10% ether/methylene chloride gave 1.1 g of the title compound as a clear oil: nD 1.5612; ir (neat) 2840, 1705, 1587, 1499, 1228, 1160, 1106, 821 cm-1 ; nmr (CDCl3) δ, 0.7 (3H, s), 4.7 (2H, s), 7.0 (4H, t), 7.4 (4H, m), 7.9 (1H, s), 9.8 (1H, s).

reactant | Bis(4-fluorophenyl)methyl(1H-1,2,4-triazol-1-ylmethyl)silane | 0.004 mol, 1.3 g | FC1=CC=C(C=C1)[Si](CN1N=CN=C1)(C)C1=CC=C(C=C1)F | C16H15F2N3Si
reactant | n-butyllithium | 0.0044 mol, 1.2M, 3.7 mL | C(CCC)[Li]
reactant | DMF | 0.016 mol, 1.2 mL | CN(C)C=O | C3H7NO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | bis(4-Fluorophenyl)methyl(5-formyl-1H-1,2,4-triazol-1-ylmethyl)silane | 1.1 g | FC1=CC=C(C=C1)[Si](CN1N=CN=C1C=O)(C)C1=CC=C(C=C1)F | C17H15F2N3OSi
